US05318966
A suspension of 2.00 g (0.0067 mol) of rac-cis-3-(2-cyclohexylethyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-ol in 100 ml of acetonitrile was treated with 1.9 ml (0.013 mol) of triethylamine and 3.0 ml (0.027 mol) of butyl isocyanate. The mixture was boiled under reflux for 20 hours and then poured into aqueous sodium hydrogen carbonate solution, whereupon the mixture was extracted with methylene chloride. After drying the organic phase with sodium sulphate and distillation of the solvent the residue was chromatographed over silica gel with methylene chloride/methanol 20:1. The oil obtained was dissolved in methanol and treated with an equimolar amount of ethanolic HCl. After drying with sodium sulphate, concentration to a volume of about 30 ml and filtration there were obtained 1.11 g (38%) of rac-cis-3-(2-cyclohexylethyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-yl butylcarbamate hydrochloride with m.p. 192°-194°.

reactant | rac-cis-3-(2-cyclohexylethyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-ol | 0.0067 mol, 2.00 g | C1(CCCCC1)CCN1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)O | C20H29NO
reactant | triethylamine | 0.013 mol, 1.9 ml | C(C)N(CC)CC | C6H15N
reactant | butyl isocyanate | 0.027 mol, 3.0 ml | C(CCC)N=C=O | C5H9NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | HCl | Cl | ClH
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
product | rac-cis-3-(2-cyclohexylethyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-yl butylcarbamate hydrochloride | 1.11 g, 38% | Cl.C(CCC)NC(OC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCC2CCCCC2)=O | InChI=1S/C25H38N2O2.ClH/c1-2-3-16-26-25(28)29-24-11-7-10-20-21-15-18-27(23(21)13-12-22(20)24)17-14-19-8-5-4-6-9-19;/h7,10-11,19,21,23H,2-6,8-9,12-18H2,1H3,(H,26,28);1H/t21-,23+;/m1./s1
